US04105790
Diethyl bromomalonate was reacted with 4-hydroxyacetophenone to give diethyl 4-acetylphenoxymalonate by the procedure described for the preparation of isopropyl 4-acetylphenoxyacetate.

reactant | Diethyl bromomalonate | BrC(C(=O)OCC)C(=O)OCC | C7H11BrO4
reactant | 4-hydroxyacetophenone | CC(=O)C=1C=CC(=CC1)O | C8H8O2
product | diethyl 4-acetylphenoxymalonate | C(C)(=O)C1=CC=C(OC(C(=O)OCC)C(=O)OCC)C=C1 | C15H18O6
